US08686048B2
Intermediate 39: 4-(benzo[d][1,3]dioxol-5-yl)-2-chloro-6-fluoroaniline
The title compound (143 mg) was prepared from 4-bromo-2-chloro-6-fluoroaniline (200 mg, 0.89 mmol) and benzo[d][1,3]dioxol-5-ylboronic acid (192 mg, 1.16 mmol) as a white solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.36-7.30 (m, 2H), 7.20 (d, J 1.7, 1H), 7.06 (dd, J 1.4, 8.1, 1H), 6.91 (d, J 8.1, 1H), 6.01 (s, 2H), 5.42 (s, 2H).

reactant | 4-bromo-2-chloro-6-fluoroaniline | 0.89 mmol, 200 mg | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | benzo[d][1,3]dioxol-5-ylboronic acid | 1.16 mmol, 192 mg | O1COC2=C1C=CC(=C2)B(O)O | C7H7BO4
product | 4-(benzo[d][1,3]dioxol-5-yl)-2-chloro-6-fluoroaniline | 143 mg | O1COC2=C1C=CC(=C2)C2=CC(=C(N)C(=C2)F)Cl | C13H9ClFNO2
